US09422271B2
To the solution of N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-iodo-2-phenylpyrimidin-4-amine (3 g, 7.44 mmol) in THF/H2O (50 mL/25 mL), a solution of Ac2O (1.5 g, 14.88 mmol, 2.0 equiv.) in THF (5 mL) was added dropwise. The reaction mixture was stirred at room temperature for 12 h. The reaction mixture was filtered to afford compound 1-(5-cyclopropyl-3-(5-iodo-2-phenylpyrimidin-4-ylamino)-1H-pyrazol-1-yl)ethanone (2.2 g, 66%). LC-MS (m/z): 446.0 [M+H]+.

reactant | N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-iodo-2-phenylpyrimidin-4-amine | 7.44 mmol, 3 g | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1I)C1=CC=CC=C1 | C16H14IN5
reactant | Ac2O | 14.88 mmol, 1.5 g, 2.0 equiv. | CC(=O)OC(=O)C | C4H6O3
solvent | THF H2O | 50 mL | C1CCOC1.O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(5-cyclopropyl-3-(5-iodo-2-phenylpyrimidin-4-ylamino)-1H-pyrazol-1-yl)ethanone | 2.2 g, 66% | C1(CC1)C1=CC(=NN1C(C)=O)NC1=NC(=NC=C1I)C1=CC=CC=C1 | C18H16IN5O
